US06919343B2
A solution of 2-fluoro-6-iodobenzonitrile (17.82 g, 72.15 mmol) and azidotrimethyltin (15.00 g, 72.88 mmol) in 150 mL toluene was heated to 125° C. for 72 hours. The solution was cooled to room temperature and partitioned between ethyl acetate and 0.5 N HCl. The organic extract was washed with water and brine, dried over Na2SO4, filtered and concentrated under vacuum to provide 5-(2-fluoro-6-iodo-phenyl)-1H-tetrazole that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 291.01 for M+H+.

reactant | 2-fluoro-6-iodobenzonitrile | 72.15 mmol, 17.82 g | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | azidotrimethyltin | 72.88 mmol, 15.00 g | N(=[N+]=[N-])[Sn](C)(C)C
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2-fluoro-6-iodo-phenyl)-1H-tetrazole | FC1=C(C(=CC=C1)I)C1=NN=NN1 | C7H4FIN4
